US07579351B2
4-(1-Oxo-1,2,3,4-tetrahydro-2,4a,5-triaza-fluoren-7-yloxy)-piperidine-1-carboxylic Acid tert-butyl ester
The title compound was synthesized in analogy to example 1, from 7-hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one (example 84, intermediate a)), tert-butyl 4-hydroxy-1-piperidinecarboxylate (commercially available), triphenylphosphine and di-tert-butylazodicarboxylate, to give the desired product as a light brown solid (70%).

reactant | 7-hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C10H9N3O2
reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
product | 4-(1-Oxo-1,2,3,4-tetrahydro-2,4a,5-triaza-fluoren-7-yloxy)-piperidine-1-carboxylic Acid tert-butyl ester | 70% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C20H26N4O4
